US04629671
60 g (0.46 mole) of hydrazine sulphate was dissolved in 700 ml of oleum with 20% SO3. 137 g (1.0 mol) p-aminobenzoic acid was added at room temperature. The mixture was stirred for 2.5 hours at a temperature of 70° C. to 75° C. and then poured onto 10 liters of ice and neutralized with a concentrated sodium hydroxide solution. The resulting precipitate was filtered off, washed with water, and again filtered off. The yield was 91 g of impure product. This impure product was recrystallized in ethanol. After partial evaporation of the resulting liquid, 73.5 g of pure 2,5-bis-(p-aminophenyl)-1,3,4-oxadiazole were obtained.

reactant | hydrazine sulphate | 0.46 mole, 60 g | S(=O)(=O)(O)O.NN
reactant | p-aminobenzoic acid | 1.0 mol, 137 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | oleum | 700 ml | OS(=O)(=O)O.O=S(=O)=O
product | 2,5-bis-(p-aminophenyl)-1,3,4-oxadiazole | 73.5 g | NC1=CC=C(C=C1)C=1OC(=NN1)C1=CC=C(C=C1)N | C14H12N4O
